US05932735
1-Oxyl-2,2,6,6-tetramethyl-4-(carboethoxymethoxy)piperidine
0.48 g (20 mmol) of sodium hydride is added to a solution of 3.0 g (17 mmol) of 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine in 25 mL of anhydrous tetrahydrofuran. The reaction mixture is stirred under a blanket of nitrogen for one hour. The mixture is chilled to 0° C. and 2.9 g (17 mmol) of ethyl bromoacetate is added dropwise. After the addition is complete, the reaction is stirred for an additional 30 minutes during which time a white precipitate forms. The mixture is filtered and the solvent is removed under reduced pressure. The title compound is isolated as an orange solid after column chromatography and melts at 41-43° C.

reactant | sodium hydride | 20 mmol, 0.48 g | [H-].[Na+]
reactant | 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine | 17 mmol, 3.0 g | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
reactant | ethyl bromoacetate | 17 mmol, 2.9 g | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 1-Oxyl-2,2,6,6-tetramethyl-4-(carboethoxymethoxy)piperidine | ON1C(CC(CC1(C)C)OCC(=O)OCC)(C)C | C13H25NO4
